US06846833B2
step a: 3-[(2-Pyridylmethyl)amino]propanamide
Acrylamide (3.29 g; 46.24 mmol) and triethylamine (0.468 g; 4.624 mmol; 6.62 μl)) are added dropwise in succession at ambient temperature, with stirring and under an argon atmosphere, to a solution of 2-(aminomethyl)-pyridine (5 g; 46.24 mmol; 4.77 ml) in 19 ml of dimethylformamide. The reaction mixture is then heated to 40° C. and stirred at that temperature for 72 hours. At the end of the reaction, the reaction mixture is concentrated and the residue is purified by chromatography on silica gel (eluant: CH2Cl2/EtOH/NH4OH 80/20/2) to yield the title product in the form of a yellow oil.

reactant | Acrylamide | 46.24 mmol, 3.29 g | C(C=C)(=O)N | C3H5NO
reactant | triethylamine | 4.624 mmol, 6.62 μl, 0.468 g | C(C)N(CC)CC | C6H15N
reactant | 2-(aminomethyl)-pyridine | 46.24 mmol, 4.77 ml, 5 g | NCC1=NC=CC=C1 | C6H8N2
solvent | dimethylformamide | 19 ml | CN(C=O)C | C3H7NO
product | 3-[(2-Pyridylmethyl)amino]propanamide | N1=C(C=CC=C1)CNCCC(=O)N | C9H13N3O
